US07528163B2
Step B: 2-[3-(2,2-Dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-ethyl-N-1,3-thiazol-2-ylacetamide
Weigh 29.0 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid, 23.0 mg HOBt, and 38.3 mg EDC into a 13×100 mm screw cap tube. Add 19.2 mg N-ethyl-1,3-thiazol-2-amine followed by 1 mL DMF and 45.2 mg DIEA in that order. The mixture was stirred at 45° C. for two hours and purified by RP-HPLC using 50-90% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound as a white solid. LC-MS: 3.96 min. (m/Z=423.2, 245.1, 273.1, 401.2).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 29.0 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-1,3-thiazol-2-amine | 19.2 mg | C(C)NC=1SC=CN1 | C5H8N2S
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 38.3 mg
product | 2-[3-(2,2-Dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-ethyl-N-1,3-thiazol-2-ylacetamide | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)N(C=1SC=CN1)CC)(C)C | C20H24N4O3S
